US06423725B1
t-Butyl N-(2-{2-Oxo-3-[1-(1-phenylcycloheptyl)-4-piperidinyl]2,3-dihydro-1H-benzimidazol-1-yl}ethyl)carbamate
To a stirred mixture of 1-[1-(1-phenylcycloheptyl)-4-piperidyl]-1,3-dihydro-2H-1,3-benzimidazol-2-one (100 mg, 0.257 mmol, this was prepared as Example 17) and THF (2 ml) was added t-BuOK (35 mg, 0.308 mmol) at 0° C. Then N-(t-butoxycarbonyl)-2-bromoethylamine (86 mg. 0.385 mmol, this was reported by E. Vedejs et al. J. Org. Chem. 1988, 33, 2226-2232). NaI (8 mg, 0.0513 mmol), and DMF (0.5 ml) were added to the reaction mixture. After 8 h stirring at 60° C., the reaction mixture was concentrated in vacuo. The residue was diluted with CH2Cl2. washed with water, dried (Na2SO4). and filtered. The filtrate was concentrated and the residue was purified by preparative TLC (MeOH/CH2Cl2: 1/10) to give 98 mg (71.6%) of amorphous solid.

reactant | 1-[1-(1-phenylcycloheptyl)-4-piperidyl]-1,3-dihydro-2H-1,3-benzimidazol-2-one | C1(=CC=CC=C1)C1(CCCCCC1)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C25H31N3O
reactant | t-BuOK | 0.308 mmol, 35 mg | CC(C)(C)[O-].[K+]
reactant | N-(t-butoxycarbonyl)-2-bromoethylamine | C(C)(C)(C)OC(=O)NCCBr | C7H14BrNO2
reactant | NaI | 0.0513 mmol, 8 mg | [Na+].[I-]
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | t-Butyl N-(2-{2-Oxo-3-[1-(1-phenylcycloheptyl)-4-piperidinyl]2,3-dihydro-1H-benzimidazol-1-yl}ethyl)carbamate | 98 mg, 71.6% | O=C1N(C2=C(N1CCNC(OC(C)(C)C)=O)C=CC=C2)C2CCN(CC2)C2(CCCCCC2)C2=CC=CC=C2 | C32H44N4O3
